US06982348B2
1) 2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxine-6-carboxylic acid
To a solution of 2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxine-6-carbonitrile (5.0 g, 21.44 mmol) in acetic acid (20 ml) was added conc. hydrochloric acid (20 ml), and the mixture was heated under reflux overnight. The reaction solution was concentrated, and the precipitated crystals were filtered and washed with water to give the objective substance (4.76 g, 88%).

reactant | 2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxine-6-carbonitrile | 21.44 mmol, 5.0 g | FC1(C(OC2=C(O1)C=CC(=C2)C#N)(F)F)F | C9H3F4NO2
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxine-6-carboxylic acid | FC1(C(OC2=C(O1)C=CC(=C2)C(=O)O)(F)F)F | C9H4F4O4
